US09107964B2
46 mg (0.088 mmol equivalents) of 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-1,3-dioxane was dissolved in 1 mL of tetrahydrofuran, 0.11 mL (1 mol/L solution, 0.11 mmol equivalents) of a solution of tetrabutylammonium fluoride in tetrahydrofuran was added thereto, and the mixture was stirred at room temperature (25° C.) for 1 hour. After completion of the reaction, the solvent was removed by distillation, and the obtained crude product was purified by silica gel column chromatography (eluent: chloroform/methanol (v/v)=10/1) to give 25 mg (0.086 mmol equivalents) of 2,2-dimethyl-5-hydroxymethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-1,3-dioxane.

reactant | 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-1,3-dioxane | 0.088 mmol, 46 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1(COC(OC1)(C)C)CCN1C(=NC=C1)[N+](=O)[O-] | C28H37N3O5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2,2-dimethyl-5-hydroxymethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-1,3-dioxane | 0.086 mmol, 25 mg | CC1(OCC(CO1)(CCN1C(=NC=C1)[N+](=O)[O-])CO)C | C12H19N3O5
